US05654316
1-[3-(3,4-dichlorophenyl)-5-(4-hydroxy-4-phenyl-1-piperidinyl)-1-oxopentyl]-1H -indole
1-[3-(3,4-dichlorophenyl)-1,5-dioxopentyl]-1H-indole (740 mg), in MeOH/THF (1:1, 30 mL) was treated sequentially with molecular sieves 3A (880 mg), 4-phenyl-4-hydroxypiperidine HCl (880 mg) and NaBH3CN (130 mg). The resulting mixture was stirred at room temperature for 18 hours. The reaction mixture was with quenched with water (20 mL) and diluted with CH2Cl2 (50 mL). The organic layer was separated and the aqueous layer extracted with CH2Cl2 (3×50 mL) The combined organic layers were dried over MgSO4, filtered and concentrated under reduced pressure to give the crude oil. Silica gel chromatography eluting with 1-2% MeOH/CH2Cl2 gave the title compound (600 mg). Mass spectrum (CI): 521.

reactant | 1-[3-(3,4-dichlorophenyl)-1,5-dioxopentyl]-1H-indole | 740 mg | ClC=1C=C(C=CC1Cl)C(CC(=O)N1C=CC2=CC=CC=C12)CC=O | C19H15Cl2NO2
reactant | 4-phenyl-4-hydroxypiperidine HCl | 880 mg | Cl.C1(=CC=CC=C1)C1(CCNCC1)O
reactant | NaBH3CN | 130 mg | [BH3-]C#N.[Na+]
solvent | MeOH THF | 30 mL | CO.C1CCOC1
product | 1-[3-(3,4-dichlorophenyl)-5-(4-hydroxy-4-phenyl-1-piperidinyl)-1-oxopentyl]-1H -indole | 600 mg | ClC=1C=C(C=CC1Cl)C(CC(=O)N1C=CC2=CC=CC=C12)CCN1CCC(CC1)(C1=CC=CC=C1)O | C30H30Cl2N2O2
